US08283353B2
4′-({4-[trans-4-(2-hydroxypropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of 4′-({5-oxo-4-[trans-4-(2-oxoethoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (841 mg) in tetrahydrofuran (15 mL) was added 1 M methylmagnesium bromide-tetrahydrofuran solution (2.2 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by basic silica gel chromatography [eluent: hexane/ethyl acetate=70/30→40/60 (volume ratio)] to give the title compound as a colorless amorphous compound (387 mg, 76%).

reactant | 4′-({5-oxo-4-[trans-4-(2-oxoethoxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 841 mg | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC=O | C30H31N5O3
reactant | methylmagnesium bromide tetrahydrofuran | 1 M, 2.2 mL | C[Mg]Br.O1CCCC1
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4′-({4-[trans-4-(2-hydroxypropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C | C31H35N5O3
